US08859773B2
Step 3: 2-methoxyquinoline-7-carboxylic acid
To a solution of ethyl 2-methoxyquinoline-7-carboxylate (125 mg, 0.54 mmol) in tetrahydrofuran (1.5 mL) was added 2 N aqueous lithium hydroxide (0.81 mL, 1.6 mmol). The reaction was stirred at room temperature for 65 hours. The tetrahydrofuran was removed in vacuo and the residue was acidified to pH=4 with 1 N aqueous hydrochloric acid. The mixture was diluted with water and the resulting precipitate was collected by filtration and dried under vacuum to give the title compound (106 mg, 96%) as a white solid. +ESI (M+H) 204.2; 1H NMR (400 MHz, CDCl3, δ): 8.64 (d, J=1.37 Hz, 1H), 8.01-8.04 (m, 1H), 8.01 (s, 1H), 7.79 (d, J=8.58 Hz, 1H), 7.01 (d, J=8.78 Hz, 1H), 4.09 (s, 3H).

reactant | ethyl 2-methoxyquinoline-7-carboxylate | 0.54 mmol, 125 mg | COC1=NC2=CC(=CC=C2C=C1)C(=O)OCC | C13H13NO3
reactant | lithium hydroxide | 1.6 mmol, 2 N, 0.81 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 2-methoxyquinoline-7-carboxylic acid | 106 mg, 96% | COC1=NC2=CC(=CC=C2C=C1)C(=O)O | C11H9NO3
